US07612201B2
Cesium carbonate (2.95 g, 9 mmol) was added in three portions to a stirred solution of 1-(2,4-Bis-benzyloxy-5-chloro-phenyl)-2-bromo-ethanone (4.4 g, 9 mmol) and piperazine-1-carboxylic acid tert-butyl ester (1.74 g, 9 mmol) in dimethylformamide (20 ml). The suspension was stirred for 2 h then partitioned between water (200 ml) and ethyl acetate (3×50 ml). The combined organic extracts were washed with water (100 ml), dried over magnesium sulphate and concentrated to give 4-[2-(2,4-Bis-benzyloxy-5-chloro-phenyl)-2-oxo-ethyl]-piperazine-1-carboxylic acid tert-butyl ester as a yellow oil (4 g)

reactant | Cesium carbonate | 9 mmol, 2.95 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(2,4-Bis-benzyloxy-5-chloro-phenyl)-2-bromo-ethanone | 9 mmol, 4.4 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C(CBr)=O | C22H18BrClO3
reactant | piperazine-1-carboxylic acid tert-butyl ester | 9 mmol, 1.74 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-[2-(2,4-Bis-benzyloxy-5-chloro-phenyl)-2-oxo-ethyl]-piperazine-1-carboxylic acid tert-butyl ester | 4 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC(=O)C1=C(C=C(C(=C1)Cl)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C31H35ClN2O5
